US05670505
To a stirred mixture of N-benzyl-N-(tert-butoxycarbonyl)-3-(2-naphthyl)-L-alanine (2.9 g), glycine methyl ester hydrochloride (0.9 g) and 1-hydroxybenzotriazole hydrate (1.06 g) in dichloromethane (50 ml) was added dropwise 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (1.43 ml) at ice-bath temperature. The resulting mixture was stirred at room temperature for 2 days and then evaporated under reduced pressure. The residue was partitioned between ethyl acetate and aqueous sodium bicarbonate solution. The organic layer was separated, washed with dilute hydrochloric acid and brine, and dried over magnesium sulfate. Evaporation of the solvent gave (2S)-2-[N-benzyl-N-(tert-butoxycarbonyl)amino]-N-methoxycarbonylmethyl-3-(2-naphthyl)propanamide.

reactant | N-benzyl-N-(tert-butoxycarbonyl)-3-(2-naphthyl)-L-alanine | 2.9 g | C(C1=CC=CC=C1)N([C@@H](CC1=CC2=CC=CC=C2C=C1)C(=O)O)C(=O)OC(C)(C)C | C25H27NO4
reactant | glycine methyl ester hydrochloride | 0.9 g | Cl.COC(CN)=O
reactant | 1-hydroxybenzotriazole hydrate | 1.06 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.43 ml | CN(CCCN=C=NCC)C | C8H17N3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (2S)-2-[N-benzyl-N-(tert-butoxycarbonyl)amino]-N-methoxycarbonylmethyl-3-(2-naphthyl)propanamide | C(C1=CC=CC=C1)N(C(=O)OC(C)(C)C)[C@H](C(=O)NCC(=O)OC)CC1=CC2=CC=CC=C2C=C1 | C28H32N2O5
